US08110585B2
(2-methyl-1,3-benzothiazol-7-yl)methanol
Under nitrogen atmosphere, to a solution of methyl 2-methyl-1,3-benzothiazole-7-carboxylate (6.00 g, 29.0 mmol) in tetrahydrofuran (150 mL) was added lithium aluminum hydride (1.18 g, 34.7 mmol) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate and water, 1 M aqueous sodium hydroxide solution (10 mL) and 2 M hydrochloric acid (10 mL) were added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/1) to give the title compound (4.78 g, yield 92%).

reactant | methyl 2-methyl-1,3-benzothiazole-7-carboxylate | 29.0 mmol, 6.00 g | CC=1SC2=C(N1)C=CC=C2C(=O)OC | C10H9NO2S
reactant | lithium aluminum hydride | 34.7 mmol, 1.18 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | sodium hydroxide | 1 M, 10 mL | [OH-].[Na+]
solvent | hydrochloric acid | 2 M, 10 mL | Cl | ClH
product | (2-methyl-1,3-benzothiazol-7-yl)methanol | 4.78 g, yield 92% | CC=1SC2=C(N1)C=CC=C2CO | C9H9NOS
